US06423716B1
6,7-Dimethoxy-4-[4-(1-methylthio-2-nitrovinyl)-1-piperazinyl]quinazoline (Compound 58)
To an ethanol solution (30 mL) of 6,7-dimethoxy-4-(1-piperazinyl)quinazoline described in South African Patent 67 06512 (1968) (Compound (i); 6.00 g, 21.9 mmol), commercially available 1,1-bis(methylthio)-2-nitroethylene (4.27 g, 25.8 mol) was added, followed by stirring under heating at 50 C for 9 hours and then heating under reflux for 2.5 hours. After the reaction solution was allowed to stand for cooling, the solvent was evaporated and then the resulting residue was purified by silica gel column chromatography to give the target compound (2.65 g, 6.78 mmol).

reactant | 6,7-dimethoxy-4-(1-piperazinyl)quinazoline | COC=1C=C2C(=NC=NC2=CC1OC)N1CCNCC1 | C14H18N4O2
reactant | 1,1-bis(methylthio)-2-nitroethylene | 25.8 mol, 4.27 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6,7-Dimethoxy-4-[4-(1-methylthio-2-nitrovinyl)-1-piperazinyl]quinazoline | 6.78 mmol, 2.65 g, Yield: 31% | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C(=C[N+](=O)[O-])SC | C17H21N5O4S
